US05750520
N-(1,2,3,4-Tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanine ethyl ester
A solution of sodium carbonate (11.5 g, 108.5 mmol) in water (115 ml) was added to a stirred solution of N-(2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanine ethyl ester (Preparation 21; 11.5 g, 22.6 mmol) in ethanol (115 ml) and the resulting mixture stirred for 3 hours at room temperature. The bulk of the ethanol was then removed under reduced pressure, water added and the resulting suspension extracted with dichloromethane. The organic extract was washed with saturated brine, dried (MgSO4 ) and evaporated under reduced pressure, then the residue dissolved in the minimum volume of dichloromethane. Dilution of this solution with ethanol, followed by concentration and overnight standing of the mixture, provided the title compound as a white solid (6.4 g), after filtration and washing with ether. Rf 0.26 (SS 6). m/e 414 (M+H)+.

reactant | sodium carbonate | 108.5 mmol, 11.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanine ethyl ester | 22.6 mmol, 11.5 g | C(C)OC([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O)CC1=CC(=CC=C1)C#N)=O | C23H22F3N3O5S
solvent | water | 115 ml | O | H2O
solvent | ethanol | 115 ml | C(C)O | C2H6O
product | N-(1,2,3,4-Tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanine ethyl ester | 6.4 g | C(C)OC([C@@H](NS(=O)(=O)C1=CC=C2CCNCC2=C1)CC1=CC(=CC=C1)C#N)=O | C21H23N3O4S
